US07342118B2
1-[2-Methyl-2-(4-nitro-imidazol-1-yl)-propyl]-piperidine
2-Methyl-2-(4-nitro-imidazol-1-yl)-propionaldehyde was reacted with piperdine to provide the title compound: C13 NMR (100 MHz, CDCl3) 23.8, 25.6, 26.6, 57.0, 60.9, 69.2, 118.3, 134.4; MS m/z 253.3 (M+1).

reactant | 2-Methyl-2-(4-nitro-imidazol-1-yl)-propionaldehyde | CC(C=O)(C)N1C=NC(=C1)[N+](=O)[O-] | C7H9N3O3
reactant | piperdine | N1CCCCC1 | C5H11N
product | 1-[2-Methyl-2-(4-nitro-imidazol-1-yl)-propyl]-piperidine | CC(CN1CCCCC1)(C)N1C=NC(=C1)[N+](=O)[O-] | C12H20N4O2
